US07229986B2
1,2,3,4-Tetrahydroquinoline (1 ml, 7.97 mmol) was dissolved in THF (20 ml), and pyridine (1.58 ml, 15.93 mmol) was added thereto and cooled on ice. p-Nitrophenyl chloroformate (1.61 g, 7.97 mmol) was added to the reaction solution and stirred at room temperature for 4 hours, then water and a saturated saline solution were added, and the reaction solution was extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated under reduced pressure, whereby 2.57 g 4-nitrophenyl 3,4-dihydroquinoline-1(2H)-carboxylate was obtained as pale yellow solution.

reactant | 1,2,3,4-Tetrahydroquinoline | 7.97 mmol, 1 ml | N1CCCC2=CC=CC=C12 | C9H11N
reactant | pyridine | 15.93 mmol, 1.58 ml | N1=CC=CC=C1 | C5H5N
reactant | p-Nitrophenyl chloroformate | 7.97 mmol, 1.61 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-nitrophenyl 3,4-dihydroquinoline-1(2H)-carboxylate | 2.57 g | N1(CCCC2=CC=CC=C12)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H14N2O4
